US08372864B2
0.51 g of methyl 7-[(methylsulfonyl)amino]-1-oxo-2-(1-propylbutyl)-1,2,3,4-tetrahydroisoquinoline-5-carboxylate is dissolved in 10.5 cm3 of dioxane at a temperature close to 20° C. 3.2 cm3 of a 1N aqueous solution of sodium hydroxide are added, then the reaction mixture is heated at a temperature close to 60° C. for 30 min. The dioxane contained in the reaction mixture is concentrated to dryness under reduced pressure (5 kPa). 20 cm3 of ethyl ether and 20 cm3 of water are added to the residue obtained. After decantation, the aqueous phase is acidified with 2 cm3 of a 2N aqueous solution of hydrochloric acid. 50 cm3 of dichloromethane are added to the mixture, which is stirred for 1 h at a temperature close to 20° C. The precipitate is filtered, washed with two lots of 10 cm3 of water then two lots of 10 cm3 of dichloromethane and dried under vacuum. 0.42 g of 7-[(methylsulfonyl)amino]-1-oxo-2-(1-propylbutyl)-1,2,3,4-tetrahydroisoquinoline-5-carboxylic acid is obtained in the form of a powder.

reactant | methyl 7-[(methylsulfonyl)amino]-1-oxo-2-(1-propylbutyl)-1,2,3,4-tetrahydroisoquinoline-5-carboxylate | 0.51 g | CS(=O)(=O)NC=1C=C(C=2CCN(C(C2C1)=O)C(CCC)CCC)C(=O)OC | C19H28N2O5S
reactant | sodium hydroxide | [OH-].[Na+]
reactant | hydrochloric acid | Cl | ClH
reactant | dichloromethane | 50 cm3 | ClCCl | CH2Cl2
solvent | dioxane | 10.5 cm3 | O1CCOCC1 | C4H8O2
product | 7-[(methylsulfonyl)amino]-1-oxo-2-(1-propylbutyl)-1,2,3,4-tetrahydroisoquinoline-5-carboxylic acid | 0.42 g | CS(=O)(=O)NC=1C=C(C=2CCN(C(C2C1)=O)C(CCC)CCC)C(=O)O | C18H26N2O5S
